US08747810B2
N-(2-methoxybenzyl)-1-(pyridin-2-yl)methanamine [1]
2-methoxybenzyl chloride (1.50 g, 9.5 mmol) and 2-(Aminomethyl)pyridine (5.18 g, 47 mmol) were dissolved in 800 mL CH3CN. To this solution was added potassium carbonate (1.324 g, 9.5 mmol) and the mixture was stirred at room temperature for three days. The solvent was evaporated, and the residual oil was dissolved in CH2Cl2 (75 mL) and extracted with water (75 mL×3). The combined CH2Cl2 layers were reduced in volume, and the resulting yellow-orange oil was purified by silica gel chromatography eluting with CH2Cl2, followed by a 3% (NH3)MeOH/97% CH2Cl2 solution (62%). 1H NMR (CDCl3) δ 8.520 (dd, 1H, Ar), 7.600 (m, 1H, Ar), 7.335 (d, 1H, Ar), 7.27 (d, 1H, Ar), 7.211 (t, 1H, Ar), 7.113 (m, 1H, Ar), 6.895 (t, 1H, Ar), 6.832 (d, 1H, Ar), 3.921 (s, 2H, —CH2—), 3.864 (s, 2H, —CH2—), 3.800 (s, 3H, —OCH3), 3.043 (s(br), 1H, —CH—). Mass Spec.=229.13 (M+H)+.

reactant | 2-methoxybenzyl chloride | 9.5 mmol, 1.50 g | COC1=C(CCl)C=CC=C1 | C8H9ClO
reactant | 2-(Aminomethyl)pyridine | 47 mmol, 5.18 g | NCC1=NC=CC=C1 | C6H8N2
reactant | potassium carbonate | 9.5 mmol, 1.324 g | C([O-])([O-])=O.[K+].[K+]
solvent | CH3CN | 800 mL | CC#N | C2H3N
product | N-(2-methoxybenzyl)-1-(pyridin-2-yl)methanamine | COC1=C(CNCC2=NC=CC=C2)C=CC=C1 | C14H16N2O
